US07449486B2
Step A: Preparation of N′-(4-azido-1-phenylbutylidene)-5-chloro-2-methyl benzohydrazide:
To a solution of 5-chloro-2-methylbenzohydrazide (2.70 g, 14.62 mmol) prepared as in Example 1, Step B, in toluene (100 mL) was added 4-azido-1-phenylbutan-1-one (3.04 g, 16.1 mmol) prepared as in Example 70, Step A, followed by p-toluenesulfonic acid monohydrate (0.28 g, 1.46 mmol). The reaction was heated to reflux and stirred under a Dean-Stark trap for 16 hours. The cooled mixture was diluted with EtOAc (300 mL) and washed with NaHCO3 (100 mL). The aqueous layer was extracted with EtOAc (100 mL) and the combined organics were washed with brine (100 mL), dried over Na2SO4 and concentrated. The residue was triturated with ether and filtered to afford the product (3.09 g, 59%) as a tan solid.

reactant | 5-chloro-2-methylbenzohydrazide | 14.62 mmol, 2.70 g | ClC=1C=CC(=C(C(=O)NN)C1)C | C8H9ClN2O
reactant | 4-azido-1-phenylbutan-1-one | 16.1 mmol, 3.04 g | N(=[N+]=[N-])CCCC(=O)C1=CC=CC=C1 | C10H11N3O
reactant | p-toluenesulfonic acid monohydrate | 1.46 mmol, 0.28 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | N′-(4-azido-1-phenylbutylidene)-5-chloro-2-methyl benzohydrazide | 3.09 g, 59% | N(=[N+]=[N-])CCCC(C1=CC=CC=C1)=NNC(C1=C(C=CC(=C1)Cl)C)=O | C18H18ClN5O
